US06849657B2
(4-Bromo-butoxy)-acetic Acid Ethyl Ester
To a solution of sodium hydride in 40 mL DMF stirred at 0° C. was slowly added ethyl glycolate (5 g, 48 mmol). After 1 hour, 1,4-dibromobutane (8.6 mL, 72 mmol) was added, and the mixture was stirred for an additional 2 hours. The reaction was allowed to warm to room temperature for an additional 3 hours. A sodium bicarbonate solution was added, and the organic layer was dried over anhydrous sodium sulfate, concentrated and the residue was purified by chromatography to afford a colorless oil.

reactant | sodium hydride | [H-].[Na+]
reactant | ethyl glycolate | 48 mmol, 5 g | C(CO)(=O)OCC | C4H8O3
reactant | 1,4-dibromobutane | 72 mmol, 8.6 mL | BrCCCCBr | C4H8Br2
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | DMF | 40 mL | CN(C)C=O | C3H7NO
product | (4-Bromo-butoxy)-acetic Acid Ethyl Ester | C(C)OC(COCCCCBr)=O | C8H15BrO3
